US07569578B2
(±)-N-(1-(6-Bromopyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide
To the solution of (±)-N-(1-(6-bromopyridin-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide (197.4 mg, 0.274 mmol) in tetrahydrofuran (8 mL) was added 1M tetrabutylammonium fluoride in tetrahydrofuran (0.55 mL, 0.549 mmol, 2 equiv). The mixture was stirred under nitrogen at 60° C. for 4 h. Another 0.5 mL of TBAF was added and the mixture was stirred overnight. Tetrahydrofuran was removed in vacuo and the residue was partitioned between water and ethyl acetate. The layers were separated and the organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The solid residue was purified by flash column chromatography (10% methanol in methylene chloride) to afford the desired product (98 mg, 61%) as a white solid. MS (ESI) [M+H]+=588, 1H-NMR (400 MHz, CDCl3) δ 7.93 (s, 1H), 7.32-6.78 (m, 9H), 6.69 (d, J=7.6 Hz, 1H), 5.79 (d, J=7.2 Hz, 1H), 5.17 (q, J=6.8 Hz, 1H), 4.60-4.48 (m, 1H), 4.25-4.00 (m, 4H), 3.27 (dd, J=13.2 and 6.4 Hz, 1H), 3.06 (dd, J=13.6 and 8.0 Hz, 1H), 2.85 (t, J=11.4 Hz, 2H), 2.45 (s, 3H), 1.80-1.50 (m, 5H). HPLC tR=1.62 min.

reactant | (±)-N-(1-(6-bromopyridin-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | 0.274 mmol, 197.4 mg | BrC1=CC=CC(=N1)C(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C35H44BrN7O3Si
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | TBAF | 0.5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.549 mmol, 0.55 mL, 2 equiv | O1CCCC1 | C4H8O
product | (±)-N-(1-(6-Bromopyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | 98 mg, 61% | BrC1=CC=CC(=N1)C(CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C29H30BrN7O2
